US05710139
6,7-Dimethoxy-2-methylquinoline-3-methanol (2.31 g, 9.9 mmol) was dissolved in thionylchloride (50 ml) and refluxed for 2 h. The solution was concentrated and the residue partitioned between ethyl acetate and aqeous NaHCO3. The layers were separated and the aqeous phase extracted with ethyl acetate. The combined organic phases were washed with water and brine and dried over MgSO4. Evaporation of the solvent gave 2.48 g 6,7-dimethoxy-3-chloromethyl-2-methylquinoline.

reactant | 6,7-Dimethoxy-2-methylquinoline-3-methanol | 9.9 mmol, 2.31 g | COC=1C=C2C=C(C(=NC2=CC1OC)C)CO | C13H15NO3
reactant | thionylchloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 6,7-dimethoxy-3-chloromethyl-2-methylquinoline | 2.48 g | COC=1C=C2C=C(C(=NC2=CC1OC)C)CCl | C13H14ClNO2
